US08349824B2
To a solution of 2-methyl-2H-pyrazole-3,4-dicarboxylic acid 4-ethyl ester (8.0 g, 40.4 mmol) in DMF (120 ml) were added HATU (34 g, 88.9 mmol), 2-(3-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine (10.6 g, 44.4 mmol) and DIPEA (30 ml, 161.1 mmol) at 0° C. The reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was diluted with water. The resultant precipitated solid was filtered, washed with water, dried azeotropically with toluene followed by vacuum to yield 5-[2-(3-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester as white solid (7.8 g, 56%). LC-MS: m/z=421.2 [M+H]+.

reactant | 2-methyl-2H-pyrazole-3,4-dicarboxylic acid 4-ethyl ester | 40.4 mmol, 8.0 g | C(C)OC(=O)C1=C(N(N=C1)C)C(=O)O | C8H10N2O4
reactant | HATU | 88.9 mmol, 34 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(3-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylamine | 44.4 mmol, 10.6 g | COC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)N)=N1 | C13H12N4O
reactant | DIPEA | 161.1 mmol, 30 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[2-(3-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 7.8 g, 56% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC(=CC=C2)OC)=O)C | C21H20N6O4
